US04113873
A solution of 5.98 g of dl-5-[1-(ethoxy)ethoxymethyl]-2-pyrrolidone in 8 ml of dimethylformamide is added gradually to a mixture of 40 ml of dimethylformamide, 1.24 g of 65% sodium hydride (an oil dispersion; washed with n-hexane) and 6.41 g of potassium iodide. The addition is carried out in nitrogen gas under ice-cooling and stirring. The solution is stirred at room temperature for 2 hours and then at 50° C. for 20 minutes. After the solution is cooled to room temperature, 8.6 g of methyl 7-bromo-n-heptanoate are added thereto, and the mixture is stirred at 50° C. for 2 days. Insoluble materials are filtered off. The filtrate is evaporated at 60° to 75° C. under reduced pressure (4 mmHg) to remove solvent. The residue obtained is mixed with ether and an aqueous saturated ammonium sulfate solution, and the mixture is shaken. Then, the organic solvent layer is separated from the mixture, and the aqueous layer is extracted with ether. The organic solvent layer and ether extract are combined, washed with water saturated with ammonium sulfate, dried and then evaporated to remove solvent. The residue thus obtained is purified by silica gel chromatography [Solvent: ethylacetate-methanol (20:1)]. dl-5-[1-(Ethoxy)ethoxymethyl]-1-(6-methoxycarbonylhexyl)-2-pyrrolidone is obtained as yellowish brown oil. Yield: 8.16 g

reactant | dl-5 [1-(ethoxy)ethoxymethyl]-2-pyrrolidone | 5.98 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C)OC(C)OCN1C(CCC1)=O
reactant | sodium hydride | 1.24 g | [H-].[Na+]
reactant | ether | CCOCC | C4H10O
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | dl-5 [1-(Ethoxy)ethoxymethyl]-1-(6-methoxycarbonylhexyl)-2-pyrrolidone | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C)OC(C)OCC1C(N(CC1)CCCCCCC(=O)OC)=O | InChI=1S/C18H34N4O2.C17H31NO5/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-4-22-14(2)23-13-15-10-12-18(17(15)20)11-8-6-5-7-9-16(19)21-3/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;14-15H,4-13H2,1-3H3
